US09278910B2
To a stirring solution of hydrazine (3.32 mL, 3.32 mmol, 1 M in THF) in THF (5 mL) at −78° C. was added butyllithium (1.28 mL, 3.05 mmol, 2.5 M in hexanes). After 30 min, a solution of 4′-methyl-[1,1′-biphenyl]-4-carbonitrile (535 mg, 2.77 mmol) in THF (5 mL) was added. The reaction mixture was allowed to warm to room temperature and stirred overnight. The reaction mixture was poured onto water (150 mL) and stirred vigorously for 1 h. The precipitate was isolated by filtration using water (2×20 mL) and isohexanes (3×20 mL) to wash the filter cake. The solid was dried under vacuum to yield 560 mg (90%) of 4′-methyl-[1,1′-biphenyl]-4-carbohydrazonamide INT-39 as a fine yellow solid. LCMS-ESI (m/z) calculated for C14H15N3: 225; found 226 [M+H]+, tR=1.15 min (Method 10).

reactant | hydrazine | 3.32 mmol, 1 M, 3.32 mL | NN | H4N2
reactant | butyllithium | 3.05 mmol, 2.5 M, 1.28 mL | C(CCC)[Li]
reactant | 4′-methyl-[1,1′-biphenyl]-4-carbonitrile | 2.77 mmol, 535 mg | CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C14H11N
reactant | water | 20 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4′-methyl-[1,1′-biphenyl]-4-carbohydrazonamide | 560 mg, 90% | CC1=CC=C(C=C1)C1=CC=C(C=C1)C(N)=NN | C14H15N3
